US05576336
Step 2: N-Boc-4-benzylthiopiperidine
To benzyl mercaptan (17 ml, 152 mmol)in dimethylformamide at 0° C. under nitrogen was added sodium hydride (80% dispersion in mineral oil, 4.38 g, 152 mmol) the solution was stirred at room temperature for 15 minutes then cooled to 0° C. prior to adding N-Boc-(4-bromo)piperidine (10.8 g, 38 mmol). The mixture was stirred for 14 h at room temperature then poured into water (50 ml), extracted with diethyl ether (2×100 ml), the organic layers combined, dried (MgSO4), filtered, evaporated, and the crude product purified by flash column chromatography using 10% ethyl acetate in hexane to yield the product as a pale yellow oil (2.86 g); δH (CDCl3) 1.46 (9H, s, t-Bu), 1.51 and 1.87 (4H, m, 3,5-piperidinyl CH2), 2.85 and 3.91 (4H, m, 2,6-piperidinyl CH2), 2.69 (1H, m, 4-piperidinyl H), 3.77 (2H, s, SCH2), and 7.24-7.32 (5H, m, ArH).

reactant | benzyl mercaptan | 152 mmol, 17 ml | C(C1=CC=CC=C1)S | C7H8S
reactant | sodium hydride | 152 mmol, 4.38 g | [H-].[Na+]
reactant | N-Boc-(4-bromo)piperidine | 38 mmol, 10.8 g | C(=O)(OC(C)(C)C)N1CCC(CC1)Br | C10H18BrNO2
reactant | water | 50 ml | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-Boc-4-benzylthiopiperidine | 2.86 g | C(=O)(OC(C)(C)C)N1CCC(CC1)SCC1=CC=CC=C1 | C17H25NO2S
